US04803266
Preparation of (E)-3-(2-oxopropylidene)-1,4-diphenyl-2-azetidinone (Compound 1)
To a solution of 0.67 g of acetylmethylene triphenylphosphorane in 70 ml of benzene was added at room temperature under a nitrogen atmosphere a solution of 0.50 g of 1,4-diphenyl-2,3-azetidinedione in 30 ml of benzene, and the mixture was stirred overnight. After completion of the reaction, the benzene was evaporated, and the residue was applied to silica gel column chromatography (eluent; methylene chloride). The desired fractions were combined, the solvent was evaporated, and the residue was recrystallized from ethanol to give the title compound as pale yellow needles. Yield 0.32 g, m.p. 157.5°-158.5° C.

reactant | acetylmethylene triphenylphosphorane | 0.67 g | C(C)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | 1,4-diphenyl-2,3-azetidinedione | 0.50 g | C1(=CC=CC=C1)N1C(C(C1C1=CC=CC=C1)=O)=O | C15H11NO2
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | (E)-3-(2-oxopropylidene)-1,4-diphenyl-2-azetidinone | O=C(\C=C/1\C(N(C1C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C18H15NO2
